Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / chlorthalidone
 
Attending: ___.
 
Chief Complaint:
Abd Pain, Hematemesis  
 
Major Surgical or Invasive Procedure:
___: EGD

 
History of Present Illness:
Mr. ___ is a ___ man w/ CKD, HTN, and intermittent GERD 
i/s/o gastritis on EGD ___ presented with 3 episodes of bright 
red blood in his vomit late in the evening of ___. 
 
The patient stated he was driving home from ___ on ___ after 
6:00pm and developed a sharp epigastric abdominal pain, similar 
but more intense than the ones he typically gets. Around 9:00pm 
he took Prilosec with a glass of water and soon after vomited 
most of his dinner along with a significant amount of bright red 
blood. He then vomited another ___ times, with less blood. Pain 
and nausea persisted and he decided to come to the ED for 
evaluation. He denies any dark black or bloody stools. No chest 
pain, shortness breath, fevers, chills, urinary symptoms. 
Patient has no history of ulcers, but has been diagnosed with 
gastritis.  
 
Of note, approximately 1 month ago, patient developed gout after 
being started on chlorthalidone (since discontinued). Over the 
past ___ weeks, patient was taking Ibuprofen 400mg up to 4 times 
daily for the associated joint pain. He does notice that his 
"gastritis" has seemed worse since he has been taking the 
ibuprofen.  
 
In addition, patient had a recent prostate biopsy 2 weeks prior. 
Also, patient notes that his wife was recently diagnosed with 
gastric ulcers after having black vomit and black stools in the 
setting of chronic prednisone use--patient is clear in denying 
all of these symptoms. No other GI history.  
 
In the ED, initial vitals were: T98.1, HR 51, BP 203/71, O2 98% 
RA  
- Exam notable for: tenderness in the epigastric area with no 
rebound or guarding. Heme-negative rectal exam with no prostate 
tenderness.  
- Labs notable for: WBC 13.3, hgb 13.6, Lactate:1.3  
- Imaging was notable for:  
1) RUQ US- Minimally distended gallbladder with focal wall edema 
and thickening at the fundus in the absence of sonographic 
___. Findings remain equivocal for acute cholecystitis.  
2) CT A&P- Gallbladder distention without radiopaque 
cholelithiasis. Gallbladder wall edema is equivocal. Findings ma 
reflect early acute cholecystitis, could be confirmed with HIDA 
scan.  
- Patient was given:  
___ 01:16 IV Ondansetron 4 mg  
___ 01:22 IV Pantoprazole 80 mg  
___ 02:08 IV Acetaminophen IV 1000 mg  
Surgery does not feel this presentation was consistent with 
cholecystitis, so admitted to medicine for further evaluation.  
 
Upon arrival to the floor, patient reports slight residual 
abdominal pain. Denies any lightheadness or weakness. 
 
Past Medical History:
 - CKD, stage 3B  
 - Hypertension  
 - Gastritis and GERD, on intermitted PPIs as need  
 - BPH s/p TURP  
 - Asymptomatic asthma  
 
Social History:
___
Family History:
Father ___ ___, mother deceased ___ w/ CAD  
 
Physical Exam:
PHYSICAL EXAM:
==============
Vital Signs: T 97.4, BP 176/74 HR 50 RR 18 Sat 96%RA 
General: elderly man, lying comfortably in bed, alert and awake, 
in NAD 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, no 
LAD.  
CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: +BS, soft, non-distended, non-tender, no rebound or 
guarding   
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: CNIII-XII intact, ___ strength upper/lower extremities.  

 
Pertinent Results:
ADMISSION LABS:
=================
___ 12:50AM BLOOD WBC-13.3* RBC-4.74 Hgb-13.6* Hct-42.1 
MCV-89 MCH-28.7 MCHC-32.3 RDW-15.4 RDWSD-50.0* Plt ___
___ 12:50AM BLOOD Neuts-75.2* Lymphs-14.2* Monos-7.0 
Eos-2.6 Baso-0.4 Im ___ AbsNeut-9.99* AbsLymp-1.89 
AbsMono-0.93* AbsEos-0.35 AbsBaso-0.05
___ 12:50AM BLOOD ___ PTT-29.3 ___
___ 12:50AM BLOOD Glucose-116* UreaN-31* Creat-1.6* Na-139 
K-4.2 Cl-102 HCO3-24 AnGap-17
___ 12:50AM BLOOD ALT-20 AST-29 AlkPhos-64 TotBili-0.4
___ 12:50AM BLOOD Albumin-4.5
___ 01:02AM BLOOD Lactate-1.3

DISCHARGE LABS:
================

___ 10:07AM BLOOD WBC-13.9* RBC-4.51* Hgb-12.9* Hct-40.1 
MCV-89 MCH-28.6 MCHC-32.2 RDW-15.1 RDWSD-48.9* Plt ___

IMAGING:
========
___ Imaging LIVER OR GALLBLADDER US     
Minimally distended gallbladder with focal wall edema and 
thickening at the fundus in the absence of sonographic ___. 
 Findings remain equivocal for acute cholecystitis. 

___BD & PELVIS W/O CON 
Gallbladder distention without radiopaque cholelithiasis.  
Gallbladder wall edema is equivocal and may reflect early acute 
cholecystitis, could be further assessed with HIDA scan. 

EGD ___ 
Impression: Irregular z-line, one possible tongue of ___ 
esophagus.
Ulcer in the gastroesophageal junction
Normal mucosa in the stomach
Erythema in the duodenal bulb compatible with duodenitis
Otherwise normal EGD to third part of the duodenum 

Recommendations: PPI BID
Repeat EGD in ___ weeks for bx of the GE junction
Follow-up inpatient GI team 
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with CKD (baseline creatinine 
1.7), HTN, intermittent GERD, and gastritis dx on EGD ___ who 
presented with 3 episodes of hematemesis. He was placed on BID 
PPI and made NPO. GI was consulted and he underwent an EGD that 
showed a medium-sized, ulcerated ___ tear, evidence of 
duodenitis, and an irregular z-line. After the EGD, the patient 
was placed on a diet, which he tolerated well. His H/H was 
stable and he remained hemodynamically stable. 

#Hematemesis: 
___ tear / gastro-esophageal junction ulcer:
#Duodenitis:  
Patient presented w/ 3 episodes of hematemesis in the setting of 
increased NSAID use secondary to gout.  He was made NPO and 
placed on BID PPI. GI was c/s'd and patient underwent EGD. He 
was found on EGD to have ___ tear without ulceration.  
He was counseled on avoidance of NSAIDs.   He was also found to 
have an irregular z-line and duodenitis. GI recommended 
continued PPI BID and follow up as outpatient in ___ weeks. His 
H/H remained stable and patient was discharged home after 
tolerating a regular diet. 

# Gallbladder edema
Presentation most concerning for gastritis / peptic ulcer
disease.  Normal LFTs and no RUQ tenderness.  Seen by ACS who
recommended no further workup or treatment
- If patient develops fever or RUQ pain in the future, would
recommend HIDA scan

TRANSITIONAL ISSUES:
=====================
[] Patient placed on BID PPI for medium-sized, ulcerated 
___ tear. Please follow-up with patient on continued 
need for BID PPI. 
[] Patient with evidence of duodinitis and an irregular z-line. 
Please repeat EGD in ___ weeks to re-evalute. 

CODE: Full
CONTACT: ___ (wife) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY:PRN GERD, dyspepsia 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
___ tear
Gastroesophageal reflux disease

SECONDARY DIAGNOSES:
====================
Chronic kidney disease
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
===============================
- You had nausea and vomiting of blood.

WHAT WAS DONE FOR ME?
====================
- You had an endoscopy which showed damage to your 
gastrointestinal tract, which was likely caused by ibuprofen and 
vomiting.
- You were started on medications to help protect your 
gastrointestinal tract.
- You felt better and were able to eat food normally prior to 
discharge.

WHAT SHOULD I DO NEXT?
====================
- Please continue to take your medications as prescribed.
- You will need to follow up for a repeat endoscopy in ___ 
weeks.

We wish you the best,

Your ___ Care Team
 
Followup Instructions:
___